US07579488B2
Preparation of [(5-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-3-methyl-benzofuran-2-carbonyl)-amino]-acetic acid
[(5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-benzofuran-2-carbonyl)-amino]-acetic acid (190 mg, 0.375 mmol) is reduced with NaBH4 (28 mg, 0.750 mmol) analogous to Example 3 to give the title product (190 mg, 100%).

reactant | [(5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-benzofuran-2-carbonyl)-amino]-acetic acid | 0.375 mmol, 190 mg | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1C=CC2=C(C(=C(O2)C(=O)NCC(=O)O)C)C1)C)=O)(C)C | C30H37NO6
reactant | NaBH4 | 0.750 mmol, 28 mg | [BH4-].[Na+]
product | [(5-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-3-methyl-benzofuran-2-carbonyl)-amino]-acetic acid | 190 mg, 100% | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C=1C=CC2=C(C(=C(O2)C(=O)NCC(=O)O)C)C1 | C30H39NO6
